US09428508B2
To a solution of 4-fluoro-2-methoxy-1-nitrobenzene (100 g, 0.584 mol) and morpholine (60 g, 0.689 mol) in dimethyl sulfoxide (60 mL) was added potassium carbonate (120 g, 0.870 mol). The mixture was stirred at 70° C. for 6 hours, and then poured into ice-water. The precipitate was collected by filtration and washed by water, dried to afford the product 4-(3-methoxy-4-nitrophenyl)morpholine (100 g, yield 72%).

reactant | 4-fluoro-2-methoxy-1-nitrobenzene | 0.584 mol, 100 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | morpholine | 0.689 mol, 60 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.870 mol, 120 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 4-(3-methoxy-4-nitrophenyl)morpholine | 100 g, yield 72% | COC=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C11H14N2O4
